### PR TITLE
[ssr] extended intro patterns

### PR DESCRIPTION
**Pull request by gares**
# extended intro patterns

This PR implements the following intro patterns for ssr:
  - temporary introduction: `=> +`
  - block introduction: `=> [^ prefix ] [^~ suffix ]`
  - fast introduction: `=> >H`
  - tactics as views: `=> /ltac:mytac`

See the reference manual for the actual documentation.

## Status

- [x] Corresponding documentation was added / updated.
- [x] Entry added in CHANGES.
- [x] Check all bugs reported by Cyril are fixed

### CODE REVIEW

**Comment by gares** [comment]
What needs to be tested is not only "success cases" but also errors and see if the message is reasonable or not.

**Comment by Zimmi48** [comment]
I'll make more comments to this PR, but a first one is that `move => >H` behaves the same as `intros * H` so I wonder whether it would be possible to reuse the existing syntax (and thus have this become `move => * H`) or if there is a reason preventing that (e.g. `*` having another meaning). I think our users will be grateful if we manage to converge rather than diverge more between the various tactics that we provide.

**Comment by CohenCyril** [comment]
> or if there is a reason preventing that (e.g. * having another meaning). I think our users will be grateful if we manage to converge rather than diverge more between the various tactics that we provide.

According to ssr manual page 23, `=> *` introduces all apparent variables if any (no unfolding). If no apparent variables, it unfolds once and introduces all apparent variables. Hence with your proposal there would be a conflict with `=> * H` which normally introduces all apparent variables, and then `H` (the first hidden one).

**Comment by Zimmi48** [comment]
Oh OK :( that's an already existing inconsistency then. BTW how would you do the equivalent of `intros *` with SSReflect? (That is: introduce all dependently quantified variables.)

**Comment by CohenCyril** [comment]
I would unfold what I need first: unfolding without the user explicit consent might result in breakage of abstraction barriers. If a definition is meant to be unfolded all the time, I go for a notation instead.

**Comment by Zimmi48** [comment]
Sorry, I didn't express myself clearly but `intros *` performs no unfolding, like `move => *`. It introduces less variables (only the dependent ones). But maybe we should take this discussion to Gitter. I'm afraid I made the topic diverge from this PR.

**Comment by CohenCyril** [comment]
Sorry. I misread your question indeed, let's follow up un gitter then.

**Comment by gares** [comment]
For reference, `=> >H` is meant to cover the use case of TLC's `introv H`.

**Comment by herbelin** [comment]
@gares, @cohencyril: are you interested in discussions leading to develop converging syntax and semantics regarding introduction patterns, or do you think at this PR as an internal "ssreflect" stuff about which you prefer not to interact with other people?

**Comment by Zimmi48** [comment]
During the Fall Coq WG, historic SSReflect developers have made it clear that there is no more "internal ssreflect stuff" so you, as well as all other Coq developers, are perfectly legitimate and welcome to review such PRs. However, you are right that the syntax question is a delicate one and ultimately, historical SSReflect developers and users are the ones who can decide what's most consistent with the existing stuff.

As my little interaction with Cyril has shown, there already are some syntax inconsistencies that are going to be hard to overcome. However, for the sake of our users, especially the ones who may be interested in mixing tactics from both worlds (and I think they are numerous), we should try to find some common ground, without breaking compatibility: it would be good at least to identify a subset of patterns that have the same meaning both with `intros` and `move =>` and try as often as possible to have the newly introduced patterns be part of this subset.

The other question I wanted to ask was about the location of the implementation. How difficult would it be to have the inner layers of intro-pattern technology be shared, even if the upper syntax layer is different? That should help, if not converging, at least not diverging too much.

**Comment by gares** [comment]
@Zimmi48 this is the only 2 entry points:
  https://github.com/gares/coq/blob/ssr/ipats2/plugins/ssr/ssripats.mli#L20
one entry point features the ssr exceptions (for `move:`, `case:` and `elim:`), while the other is exception free and is a tactic/tactical in the tactic monad sense (you can `tac <*> tclIPAT mypat`)
note that they take in input an AST
  https://github.com/gares/coq/blob/ssr/ipats2/plugins/ssr/ssrast.mli#L74
so one can just parse the AST from the syntax he prefers.
The semantics is hard-coded for now, the code to let someone override the meaning of an ipat (the demo I gave last) is for future work (and also quite entangled with Ltac1/2, so not for now).

**Comment by herbelin** [comment]
A comment about `intros *` and `intros **`: the question of whether it is better that they unfold or not in the absence of a product is recurrent. My vague conclusion was that in interactive mode, it is better they unfold (because we expect that it does something), but in programming mode, it is unclear that we necessarily want unfolding (because, it is supposed to be generic code which works uniformly whether or not there are effective products).

We could of course dissociate the features, and, for the purpose of a language of "shortcuts" as introduction patterns are, to have a special shortcut to "force unfolding" (i.e. `red`, or a variant of it) when necessary. Orelse to integrate unfolding to `*` and `**`.

The design space is large, with various purposes overlapping (interactive, programming, teaching, readability, compactness,...), and it is unclear to me, at least for `*` and `**`, on which concepts to articulate things in a way which is significantly better than the others, even though it is clear that, under the hood of the concrete syntax, we want proving bricks more finely controllable than what we have today (bricks for controlling naming, bricks for controlling reduction, bricks for controlling unification, bricks for controlling pattern selection, ...).

**Comment by Zimmi48** [comment]
This PR is relatively hard to review without any documentation. I suppose that "the Quill working group" has produced some sort of draft, and even if it not polished enough to become a documentation, could you share it with us?

-----

Since you put this working group in place, could it also give an opinion on the two other pending intro-pattern PRs #410 and #1003? For #410, I suppose the answer will be "doesn't bring much compared to `split => H` but I'm more specifically interested in an opinion on #1003. In particular, it was last blocked by @maximedenes saying:

> I share the concerns expressed above about syntactic pollution. I would like to see use cases, i.e. large enough proof using this to judge if the trade-off is good.

This argument is interesting especially because Maxime has in mind the model of SSR which was able to demonstrate the usefulness of its tactics on large proofs, and he would like to promote such a model for all new development of tactics. However with the present PR, enhancements to SSR are proposed without having first been tested on large proofs (IIUC) but after having discussed with a panel of power-users (again IIUC; it could be of help clarifying what the composition of the Quill working group was). I'm not questioning this method which I find interesting nor its conclusions but on the contrary trying to take advantage of the existence of this working group to get input on related proposals. On the longer term, if this method proved to be effective, it could be interesting to pursue it and extend the discussions of this working group to the future of tactics in general (of course, more publicity for the working group would also help getting convinced that this does indeed represent the expectations of power-users).

-----

The last part of this three part comment is a continuation of previous discussion on sharing the inner layers of the implementation. From @gares' reply, I get the impression that all is needed is a sufficiently generic `ssripat` type which would encompass all the possibilities currently offered by both vanilla intro-patterns and SSR intro-patterns (extending the `tclIPAT` function at the same time). Even if we don't want to offer all these possibilities from both worlds for various reasons, it shouldn't be a problem because the corresponding syntax doesn't need to be complete.

So @gares and @herbelin: how hard do you think it would be to move this out of SSR proper into `tactics/` and merging with the existing stuff? And how useful would it be? (And just to get an idea, how many code lines could we save?)

**Comment by SkySkimmer** [comment]
What is Quill? I couldn't find it in google.

**Comment by gares** [comment]
@SkySkimmer what I meant is a working group that run for a few months (the drafts were here https://github.com/gares/coq/tree/proof-language/plugins/newtactics and some pre-existing code here https://github.com/math-comp/math-comp/tree/feature/plugin-next). You can simply ignore "Quill".

**Comment by Zimmi48** [comment]
Rendered doc: https://coq.gitlab.io/-/coq/-/jobs/94257138/artifacts/_install_ci/share/doc/coq/sphinx/html/proof-engine/ssreflect-proof-language.html#introduction-in-the-context

**Comment by gares** [comment]
Given the current release schedule I'm not so sure we can make it for 8.9. In any case I'd like to have a review (and possibly a few more tests as part of it) soon, so that if we miss 8.9 we can merge very early in 8.10.

**Comment by Zimmi48** [comment]
I'll see if I manage to review the doc today.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 1]
```diff
@@ -1541,13 +1541,19 @@ whose general syntax is
    :name: =>
 
 .. prodn::
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: Sorry I'm also commenting on the general shape of this chapter. After a `.. tacn::` declaration, there must be an indented body, which isn't the case here. I suggest indenting the grammar rules and the following description. The other solutions would imply moving things around and reformulating.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 2]
```diff
@@ -1541,13 +1541,19 @@ whose general syntax is
...
-   i_pattern ::= @ident %| _ %| ? %| * %| {? @occ_switch } -> %| {? @occ_switch }<- %| [ {?| @i_item } ] %| - %| [: {+ @ident } ]
+   s_item ::= /= %| // %| //= %| /@num= %| /@num/ %| /@num/@num=
+
+.. prodn::
+   i_block ::= [^ @ident ] %| [^~ @ident ] %| (^ @ident ) %| (^~ @ident )
+
+.. prodn::
+   i_pattern ::= @ident %| > @ident %| _ %| ? %| * %| + %| {? @occ_switch } -> %| {? @occ_switch }<- %| [ {?| @i_item } ] %| ( {?| @i_item } ) %| - %| [: {+ @ident } ]
 
 The ``=>`` tactical first executes tactic, then the :token:`i_item` s,
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: `tactic` -> ``` :token:`tactic` ```

```:token:`i_item` s``` can be rewritten ```:token:`i_item`\s``` to avoid the space before the `s`.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 3]
```diff
@@ -1566,6 +1572,11 @@ An :token:`s_item` can simplify the set of subgoals or the subgoals themselves:
   tactic ``simpl`` [#5]_.
 + ``//=`` combines both kinds of simplification; it is equivalent to
   ``/= //``, i.e., ``simpl; try done``.
++ the user can define variants of the above and access them by number.
+  In particular ``/1/`` executes ``try ssrdone1``, ``/1=`` executes
+  ``ssrsimpl1`` and ``/2/1=`` executes ``ssrsimpl1; try ssrdone2``.
+  ``ssrdone0`` is defined in `ssreflect` as a variant of ``done`` not
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: ``` `ssreflect` ``` -> `|SSR|`

``` ``done`` ``` -> ```:tacn:`done` ```

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 4]
```diff
@@ -1566,6 +1572,11 @@ An :token:`s_item` can simplify the set of subgoals or the subgoals themselves:
...
+  calling ``split``.
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: ``` ``split`` ``` -> ```:tacn:`split` ```

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 5]
```diff
@@ -1541,13 +1541,19 @@ whose general syntax is
    :name: =>
 
 .. prodn::
-   i_item ::= @i_pattern %| @s_item %| @clear_switch %| {? %{%} } /@term
+   i_item ::= @i_pattern %| @s_item %| @clear_switch %| @i_view %| @i_block
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: You need to update the paragraph saying "The last entry in the i_item grammar rule, /term, represents a view"

**Review by Zimmi48 — COMMENTED** [review]
That's only a start. I'll come back to this later.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst (hunk 5 above)
Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: done

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst (hunk 1 above)
Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: I agree, but I leave this as it is for now so that checking the diff is simpler (if I indent the entire thing, then you would get a big change)

**Comment by gares** [comment]
thanks for the comments!

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst (hunk 1 above)
Comment (Zimmi48) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: OK

**Comment by gares** [comment]
rebasing to fix hott + numeral notataions

**Comment by gares** [comment]
@CohenCyril plase give this PR a try now the the doc is kind of written.
Especially the block intro thing you helped designing.
Possibly contribute back your tests, see the ones I have in this PR as an example.

**Comment by Zimmi48** [comment]
Updated rendered doc: https://coq.gitlab.io/-/coq/-/jobs/94541519/artifacts/_install_ci/share/doc/coq/sphinx/html/proof-engine/ssreflect-proof-language.html#introduction-in-the-context

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 6]
```diff
@@ -1541,19 +1541,25 @@ whose general syntax is
...
+   s_item ::= /= %| // %| //= %| /@num= %| /@num/ %| /@num/@num=
 
-The ``=>`` tactical first executes tactic, then the :token:`i_item` s,
+.. prodn::
+   i_block ::= [^ @ident ] %| [^~ @ident ] %| (^ @ident ) %| (^~ @ident )
+
+.. prodn::
+   i_pattern ::= @ident %| > @ident %| _ %| ? %| * %| + %| {? @occ_switch } -> %| {? @occ_switch }<- %| [ {?| @i_item } ] %| ( {?| @i_item } ) %| - %| [: {+ @ident } ]
+
+The ``=>`` tactical first executes :token:`tactic`, then the :token:`i_item` s,
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: Now that I've made you change this, I only realize that `tactic` is not a defined grammar token. Never mind in the grammar of Ltac there is the notion of `atomic_tactic`. We should rename this `tactic`. Is this what's intended here or are tactic expressions also accepted?

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 7]
```diff
@@ -1589,6 +1600,14 @@ The view is applied to the top assumption.
...
   Note that defined constants cannot be introduced when δ-expansion is
   required to expose the top variable or assumption.
+``>``:token:`ident`
+  pops the first assumption. The tactic ``move=> >H`` is equivalent to
+  ``move=> ? ? H`` with enough ``?`` to name `H` the first assumption.
+  On a goal::
+
+    forall x y, x < y -> G
+
+  it names `H` the assumption `x < y`.
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: Use double backticks. (Same remark a few lines above.)

**Review by Zimmi48 — COMMENTED** [review]
Sorry, stopping again before having finished.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst (hunk 6 above)
Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: it is correct, you can write `(tac; tac) => ipats`.

File: test-suite/ssr/ipat_seed.v [hunk 8]
```diff
@@ -0,0 +1,45 @@
...
+Axiom Qx : forall x, Q x.
+Axiom my_ind :
+  forall P : nat -> Prop, P O -> (forall n m (w : P n /\ P m), P (n+m)) ->
+     forall w, P w.
+
+Lemma test x : bar nat -> baz nat nat x -> forall n : nat, Q n.
+Proof.
+
+(* record *)
+move => [^~ _ccc ].
```
Comment (CohenCyril) [inline test-suite/ssr/ipat_seed.v]: Here, the unnamed field of the record gets name `_x_`, I think even though one cannot rely on it, for readability purposes it should get name `_x_ccc`.

File: test-suite/ssr/ipat_seed.v [hunk 9]
```diff
@@ -0,0 +1,45 @@
...
+Check (refl_equal _ : c_ccc = (a_ccc, 7)).
+
+(* inductive *)
+move=> [^ xxx_ ].
```
Comment (CohenCyril) [inline test-suite/ssr/ipat_seed.v]: Same here, `_e_` should be named `_xxx_eq_` (where does the letter `e` come from in the first place?)

File: test-suite/ssr/ipat_seed.v [hunk 10]
```diff
@@ -0,0 +1,45 @@
...
+Check (refl_equal _ : xxx_f = 3).
+  by [].
+Check (refl_equal _ : xxx_n = xxx_n).
+
+(* eliminator *)
+elim/my_ind => [^ wow_ ].
```
Comment (CohenCyril) [inline test-suite/ssr/ipat_seed.v]: I guess `elim/my_ind. => (^ wow_ )` does not work for the same reason `apply: my_ind => (^ wow_).` does not. But would it be possible and desirable to detect the new variables introduced by a tactic a get to prefix them all?

File: test-suite/ssr/ipat_simpln.v [hunk 11]
```diff
@@ -0,0 +1,55 @@
...
+Lemma false2 : 3 = 4 /\ 2 + 3 = 5.
+Proof.
+split => /33/=.
+lazymatch goal with
+| |- 2 + 3 = 5 => fail
+| |- 5 = 5 => done
+end.
+Qed.
+
+Ltac ssrsimpl7 := idtac.
```
Comment (CohenCyril) [inline test-suite/ssr/ipat_simpln.v]: In context
```coq
Axiom (P : Type) (mem : nat -> P -> bool).
Axiom (odd : nat -> bool) (odds : P).
Axiom (mem_odds : forall n, mem n odds = odd n).

Ltac ssrsimpl1 := rewrite mem_odds.

Lemma test7 : mem 1 odds = odd 1.
Proof.
```
Doing  `move=> /1=.` succeeds, but `rewrite /1=` does not... with error message `Localized custom simpl tactic not supported` why so?

NB: For modularity's sake, I have always been puzzled by the use of numbers instead of names. I wished I could write the example here `move=> /inE=` with `Ltac ssrsimpl_inE := rewrite !inE` or something like that...

File: test-suite/ssr/ipat_tac.v [hunk 12]
```diff
@@ -0,0 +1,36 @@
...
+Ltac unfld what := rewrite /what.
+
+Notation "% n" := (ltac:( unfld n )) (at level 0).
+
+
+Definition def := 4.
+
+Lemma test : True -> def = 4.
+Proof.
+move=> /(% def) _.
```
Comment (CohenCyril) [inline test-suite/ssr/ipat_tac.v]: If I swap `_` and `/(% def)`  I get error ` No assumption in (def = 4)`. Why should the stack be non empty when I use a ltac as a view?

Comment (gares) [reply test-suite/ssr/ipat_tac.v]: This is a bug.

File: test-suite/ssr/ipat_simpln.v (hunk 11 above)
Comment (gares) [reply test-suite/ssr/ipat_simpln.v]: It is a bug that `rewrite /1=` raises that error. It should in the case `rewrite [in RHS]/1=` that is not implemented (and that limitation should be documented).

File: test-suite/ssr/ipat_seed.v (hunk 10 above)
Comment (gares) [reply test-suite/ssr/ipat_seed.v]: I believe `apply: my_ind => (^ foo )` is not part of this PR. So it should be turned into a feature whish, eventually.

The fact that `elim/my_ind => (^ foo )`  does not work is a bug.

File: test-suite/ssr/ipat_seed.v (hunk 8 above)
Comment (gares) [reply test-suite/ssr/ipat_seed.v]: noted

File: test-suite/ssr/ipat_seed.v (hunk 9 above)
Comment (gares) [reply test-suite/ssr/ipat_seed.v]: noted.

**Comment by gares** [comment]
Thanks for the testing!

File: test-suite/ssr/ipat_tmp.v [hunk 13]
```diff
@@ -0,0 +1,22 @@
...
+
+ Lemma test1 :
+   forall x y : nat, x = y -> forall z : nat, y == z -> x = z.
+ Proof.
+ by move=> x y + z /eqP <-; apply.
+ Qed.
+
+ Lemma test2 : forall (x y : nat) (e : x = y), e = e -> x = y.
+ Proof.
+ move=> + y + _ => x def_x; exact: (def_x : x = y).
```
Comment (CohenCyril) [inline test-suite/ssr/ipat_tmp.v]: After discussing with @gares, the intro item `-` should reset temporary introductions (`+`). Resetting views without touching temp intros and without clearing should be done using a **noop** iterm, which can be coded either by the empty dispatch `()` (does not work right now) or by the identity tactic view `/ltac:(idtac)`.

File: test-suite/ssr/ipat_tac.v [hunk 14]
```diff
@@ -0,0 +1,36 @@
...
+move: w1 => /J/fancy (w'||);last exact: false.
+  move: w' => /J/fancy(w''||); last exact: false.
+    by exists x.
+  by exists x.
+by exists x.
+Qed.
+
+Ltac unfld what := rewrite /what.
+
+Notation "% n" := (ltac:( unfld n )) (at level 0).
```
Comment (CohenCyril) [inline test-suite/ssr/ipat_tac.v]: I suggest that such notations are added in a predefined scope (named for example `ipat_scope`) which the user should never open, but the `/view` mechanism will add it on top of the scope stack first.

Comment (CohenCyril) [reply test-suite/ssr/ipat_tac.v]: e.g.
```coq
Notation "'[->]'" := 
  (ltac:(let eq := fresh "_eq_" in
           intro eq; rewrite ->eq in * |- *;
           match goal with eq : (?x = _) |- _ => clear eq x end)
  ) (at level 0): ipat_scope.


Lemma test4 : forall (P : nat -> Prop) (x y z : nat) (px : P x) (e : x = z) (e' : x = y), P y.
Proof.
Fail Check [->].
Local Open Scope ipat_scope.
by move=> P x y z px /[->] /[->] //.
Qed.
```
(don't mind the actual implementation of `[->]` which does a subst where one can refer to the equality rather than just one member, for improved stability)

File: test-suite/ssr/ipat_tmp.v (hunk 13 above)
Comment (gares) [reply test-suite/ssr/ipat_tmp.v]: I was thinking that maybe `()` could/should also mean "only 1 goal" that is something we miss today.  `=> []` does not assert that.
```
Lemma xxx x (H : True -> x = 3) : x = 4.
rewrite H => [].
```
Maybe we could make `()` do this check, but in that case the only real dummy ipat would be the one implemented via ltac.

**Comment by Zimmi48** [comment]
Please re-request a review when the features are stabilized and the doc is updated.

File: test-suite/ssr/ipat_tmp.v (hunk 13 above)
Comment (CohenCyril) [reply test-suite/ssr/ipat_tmp.v]: As soon as `()` is not the first item of the intro pattern, it will be okay because after some intros/view application, the intro pattern becomes focused on each goal independently, so there will indeed be only one goal... (in other words `=> ()` really checks there is only one goal `=> x ()` does not and `=> /tac ()` does again, but it's okay since `/tac` did the intended reset anyway...).
Am I correct?

File: test-suite/ssr/ipat_seed.v (hunk 10 above)
Comment (gares) [reply test-suite/ssr/ipat_seed.v]: fixed

File: test-suite/ssr/ipat_tmp.v (hunk 13 above)
Comment (gares) [reply test-suite/ssr/ipat_tmp.v]: No, `()` has a global view.
But I'm unable to make `()` parse... mysteries...

**Comment by gares** [comment]
I could not manage to parse `()`, so I guess this feature will go in another PR.
What is left to be done is to use a specific scope for views.

**Comment by maximedenes** [comment]
@gares do you want to schedule some work together on this?

**Comment by gares** [comment]
I hope I'll manage to do what is missing today

**Comment by gares** [comment]
@Zimmi48 @maximedenes I believe we are ready for another round of review.
Changes are minimal:
- rebased on top of #8556 in order to fix the implementation of `IPatDispatch`
- notations in `=> /t` (in `t` actually) are processed opening an extra `ssripat` scope, so that one can declare notations in `ssripat_scope` and avoid conflicts
- `=> ()` finally parses (and thanks to #8556) asserts there is only one goal @CohenCyril

**Comment by gares** [comment]
@CohenCyril I did not recall if the conclusion of our last discussion was that `-` should also generalize back `+` or not. The current code does not. If the conclusion was that it should then the fix is two lines...

**Comment by CohenCyril** [comment]
> @CohenCyril I did not recall if the conclusion of our last discussion was that `-` should also generalize back `+` or not. The current code does not. If the conclusion was that it should then the fix is two lines...

Yes `-` should generalize `+` back. But our last discussion was flawed, we should rediscuss again asap and write down the result here.

File: test-suite/ssr/ipat_tac.v (hunk 12 above)
Comment (gares) [reply test-suite/ssr/ipat_tac.v]: fixed (and there is a test)

File: test-suite/ssr/ipat_tmp.v (hunk 13 above)
Comment (gares) [reply test-suite/ssr/ipat_tmp.v]: I managed to parse it

File: test-suite/ssr/ipat_simpln.v (hunk 11 above)
Comment (gares) [reply test-suite/ssr/ipat_simpln.v]: fixed

File: test-suite/ssr/ipat_seed.v (hunk 8 above)
Comment (gares) [reply test-suite/ssr/ipat_seed.v]: fixed

File: test-suite/ssr/ipat_tac.v (hunk 14 above)
Comment (gares) [reply test-suite/ssr/ipat_tac.v]: done

**Comment by gares** [comment]
@maximedenes I think it is now ready for review, all known issues were fixed

**Comment by maximedenes** [comment]
@gares I looked at the code, I think it is lacking comments and maybe a bit of cleaning. The easiest is probably that you and I take a bit of time, I'll ask a few questions and write comments when you explain how some of these things work.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 15]
```diff
@@ -1545,19 +1545,25 @@ whose general syntax is
...
+   s_item ::= /= %| // %| //= %| /@num= %| /@num/ %| /@num/@num=
 
-The ``=>`` tactical first executes tactic, then the :token:`i_item` s,
+.. prodn::
+   i_block ::= [^ @ident ] %| [^~ @ident ] %| (^ @ident ) %| (^~ @ident )
+
+.. prodn::
+   i_pattern ::= @ident %| > @ident %| _ %| ? %| * %| + %| {? @occ_switch } -> %| {? @occ_switch }<- %| [ {?| @i_item } ] %| ( {?| @i_item } ) %| - %| [: {+ @ident } ]
+
+The ``=>`` tactical first executes :token:`tactic`, then the :token:`i_item` s,
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]:
```suggestion
The ``=>`` tactical first executes :token:`tactic`, then the :token:`i_item`\s,
```

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 16]
```diff
@@ -1545,19 +1545,25 @@ whose general syntax is
...
 left to right. An :token:`s_item` specifies a
 simplification operation; a :token:`clear_switch`
 h specifies context pruning as in :ref:`discharge_ssr`.
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]:
```suggestion
specifies context pruning as in :ref:`discharge_ssr`.
```

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 17]
```diff
@@ -1545,19 +1545,25 @@ whose general syntax is
...
-The :token:`i_pattern` s can be seen as a variant of *intro patterns*
+The :token:`i_pattern`\s can be seen as a variant of *intro patterns*
 :ref:`tactics`: each performs an introduction operation, i.e., pops some
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]:
```suggestion
(see :tacn:`intros`) each performs an introduction operation, i.e., pops some
```

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst (hunk 15 above)
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: `i_view` and `i_block` are not mentioned in this paragraph. It would be good if that was the case. It would also be good if the order of the description could be the same as in the grammar (easier to follow). You can also change the order of the grammar.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 18]
```diff
@@ -1570,6 +1576,11 @@ An :token:`s_item` can simplify the set of subgoals or the subgoals themselves:
   tactic ``simpl`` [#5]_.
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]:
```suggestion
   tactic :tacn:`simpl` [#5]_.
```

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 19]
```diff
@@ -1570,6 +1576,11 @@ An :token:`s_item` can simplify the set of subgoals or the subgoals themselves:
...
 + ``//=`` combines both kinds of simplification; it is equivalent to
   ``/= //``, i.e., ``simpl; try done``.
++ the user can define variants of the above and access them by number.
+  In particular ``/1/`` executes ``try ssrdone1``, ``/1=`` executes
+  ``ssrsimpl1`` and ``/2/1=`` executes ``ssrsimpl1; try ssrdone2``.
+  ``ssrdone0`` is defined in |SSR| as a variant of :tacn:`done` not
+  calling :tacn:`split`.
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: Give a concrete example where such tactics are defined. It will also help see the use case.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 20]
```diff
@@ -1640,18 +1669,46 @@ The view is applied to the top assumption.
...
+  *block introduction* using :token:`ident` as a prefix.
+``(^~`` :token:`ident` ``)``
+  *block introduction* using :token:`ident` as a suffix.
 ``/`` :token:`term`
-  Interprets the top of the stack with the view :token:`term`.
+  interprets the top of the stack with the view :token:`term`.
   It is equivalent to ``move/term``. The optional flag ``{}`` can
   be used to signal that the :token:`term`, when it is a context entry,
   has to be cleared.
+``/ltac:(`` :token:`tactic` ``)``
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: According to the grammar this is not an `i_pattern` but an `i_view`. So move its description in the appropriate place, I guess.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 21]
```diff
@@ -1640,18 +1669,46 @@ The view is applied to the top assumption.
...
   While it is good style to use the :token:`i_item` i * to pop the variables
   and assumptions corresponding to each constructor, this is not enforced by
   |SSR|.
+``(`` :token:`i_item` * ``| … |`` :token:`i_item` * ``)``
+  *branching* :token:`i_pattern`. With no exception
+  it executes the sequence :token:`i_item`:math:`_i` on the i-th subgoal.
+  Raises an error if the number of goals and the number of :token:`i_item`
+  mismatch. Note that ``()`` can be used to assert that there is only one
+  goal.
+``[^`` :token:`ident` ``]``
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: Same thing, this is not an `i_pattern` but an `i_block`. Either split the explanations according to the grammar or refactor the grammar and the description completely (I wouldn't mind the latter).

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 22]
```diff
@@ -1615,6 +1634,16 @@ The view is applied to the top assumption.
 
   a first ``move=> *`` adds only ``_a_ : bool`` and ``_b_ : bool``
   to the context; it takes a second ``move=> *`` to add ``_Hyp_ : _a_ = _b_``.
+``+``
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: This one is cool :grin:

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 23]
```diff
@@ -1640,18 +1669,46 @@ The view is applied to the top assumption.
...
+  on the top variable and introduces, in one go, all the variables coming
+  from the case analysis. The names of these variables are obtained by
+  taking the names used in the inductive type declaration and prefixing them
+  with :token:`ident`. If the intro pattern immediately follows a call
+  to ``elim`` with a custom eliminator (see :ref:`custom_elim_ssr`) then
+  the names are taken from the ones used in the type of the eliminator.
+``[^~`` :token:`ident` ``]``
+  *block destructing* using :token:`ident` as a suffix.
+``(^`` :token:`ident` ``)``
+  *block introduction* using :token:`ident` as a prefix.
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: Not precise enough. How much does it introduce? As much as `*`?

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 24]
```diff
@@ -1640,18 +1669,46 @@ The view is applied to the top assumption.
...
+``(^~`` :token:`ident` ``)``
+  *block introduction* using :token:`ident` as a suffix.
 ``/`` :token:`term`
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]:
```suggestion
:n:`/@term`
```

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 25]
```diff
@@ -1640,18 +1669,46 @@ The view is applied to the top assumption.
...
+  *block destructing* :token:`i_pattern`. It performs a case analysis
+  on the top variable and introduces, in one go, all the variables coming
+  from the case analysis. The names of these variables are obtained by
+  taking the names used in the inductive type declaration and prefixing them
+  with :token:`ident`. If the intro pattern immediately follows a call
+  to ``elim`` with a custom eliminator (see :ref:`custom_elim_ssr`) then
+  the names are taken from the ones used in the type of the eliminator.
+``[^~`` :token:`ident` ``]``
+  *block destructing* using :token:`ident` as a suffix.
+``(^`` :token:`ident` ``)``
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]:
```suggestion
:n:`(^ @ident )`
```

And similar thing in other places.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 26]
```diff
@@ -1716,6 +1773,21 @@ interpretation, e.g.:
...
+      Set Implicit Arguments.
+      Unset Strict Implicit.
+      Unset Printing Implicit Defensive.
+
+   .. coqtop:: all
+
+      Record r := { a : nat; b := (a, 3); _ : bool; }.
+
+      Lemma test : r -> True.
+      Proof. move => [^ x ].
```
Comment (Zimmi48) [inline doc/sphinx/proof-engine/ssreflect-proof-language.rst]: I would prefer if this example was closer to the description.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst (hunk 22 above)
Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: oops

**Comment by gares** [comment]
@Zimmi48 Thanks I'll fix the rest tomorrow.
@maximedenes Next week, starting from Wednesday is should be ok.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst (hunk 22 above)
Comment (Zimmi48) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: I didn't mean to trigger this reaction. I just really like `move => + x`

Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: I mean "oops, I forgot to document htis". No problem.

Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: Sorry I got confused, I thought the lower diff was glued, hence that there was no line for documenting `+`.

**Comment by gares** [comment]
@Zimmi48 Thanks for the terrific review on the doc. I think I've addressed all your suggestions that indeed made the doc better structured and easier to follow.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst (hunk 23 above)
Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: This doc is now closer to the example, that hopefully makes it clear.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst (hunk 26 above)
Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: The doc of i_block is not closer to the example

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst (hunk 15 above)
Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: done

File: plugins/ssr/ssrcommon.ml [hunk 27]
```diff
@@ -410,7 +410,7 @@ let mk_anon_id t gl_ids =
     let rec loop i j =
       let d = !s.[i] in if not (is_digit d) then i + 1, j else
       loop (i - 1) (if d = '0' then j else i) in
-    let m, j = loop (n - 1) n in m, (!s, j), Id.of_string !s in
+    let m, j = loop (n - 1) n in m, (!s, j), Id.of_string_soft !s in
```
Comment (maximedenes) [inline plugins/ssr/ssrcommon.ml]: Can you add a comment saying why we need to tolerate ill-formed identifiers?

File: plugins/ssr/ssrcommon.ml [hunk 28]
```diff
@@ -1436,7 +1436,8 @@ let tclINTRO ~id ~conclusion:k = Goal.enter begin fun gl ->
   let original_name = Rel.Declaration.get_name decl in
   let already_used = Tacmach.New.pf_ids_of_hyps gl in
   let id = match id, original_name with
-    | Some id, _ -> id
+    | `Id id, _ -> id
+    | `Seed id, _ -> mk_anon_id id already_used
     | _, Name id ->
```
Comment (maximedenes) [inline plugins/ssr/ssrcommon.ml]: Using a defined ADT and an exhaustive match here will make the code more robust w.r.t. extensions.

File: plugins/ssr/ssrelim.ml [hunk 29]
```diff
@@ -102,7 +102,8 @@ let get_eq_type gl =
   let eq, gl = pf_fresh_global Coqlib.(lib_ref "core.eq.type") gl in
   gl, EConstr.of_constr eq
 
-let ssrelim ?(ind=ref None) ?(is_case=false) deps what ?elim eqid elim_intro_tac gl =
+let ssrelim ?(is_case=false) deps what ?elim eqid elim_intro_tac gl =
+  let seed = ref None in
```
Comment (maximedenes) [inline plugins/ssr/ssrelim.ml]: Can you add a comment saying what `seed` represents?

File: plugins/ssr/ssrelim.ml [hunk 30]
```diff
@@ -185,9 +186,12 @@ let ssrelim ?(ind=ref None) ?(is_case=false) deps what ?elim eqid elim_intro_tac
         analyze_eliminator elimty env (project gl) in
       if is_case then
```
Comment (maximedenes) [inline plugins/ssr/ssrelim.ml]: I think this whole block (the two branches of `is_case`) deserves a comment explaining what it does.

File: plugins/ssr/ssrelim.ml [hunk 31]
```diff
@@ -379,9 +383,9 @@ let ssrelim ?(ind=ref None) ?(is_case=false) deps what ?elim eqid elim_intro_tac
   let elim = project gl, elim in 
   let elim_tac gl =
     Tacticals.tclTHENLIST [refine_with ~with_evars:false elim; old_cleartac clr] gl in
-  Tacticals.tclTHENLIST [gen_eq_tac; elim_intro_tac what eqid elim_tac is_rec clr] orig_gl
+  Tacticals.tclTHENLIST [gen_eq_tac; elim_intro_tac ?seed:!seed what eqid elim_tac is_rec clr] orig_gl
 
-let no_intro ?ist what eqid elim_tac is_rec clr = elim_tac
+let no_intro ?seed what eqid elim_tac is_rec clr = elim_tac
```
Comment (maximedenes) [inline plugins/ssr/ssrelim.ml]: Why is `?ist` gone? Was it really not needed or did we forget to bind it?

File: plugins/ssr/ssrequality.ml [hunk 32]
```diff
@@ -181,13 +181,18 @@ let norwocc = noclr, None
...
-    if m <> ~-1 then
-      CErrors.user_err (Pp.str "Localized custom simpl tactic not supported");
-    let sigma0, concl0, env0 = project gl, pf_concl gl, pf_env gl in
-    let simp env c _ _ = EConstr.Unsafe.to_constr (red_safe Tacred.simpl env sigma0 (EConstr.of_constr c)) in
-    Proofview.V82.of_tactic
-      (convert_concl_no_check (EConstr.of_constr (eval_pattern env0 sigma0 (EConstr.Unsafe.to_constr concl0) rdx occ simp)))
-      gl in
+    if m <> ~-1 then begin
+      if rdx <> None then
+        CErrors.user_err (Pp.str "Custom simpl tactic does not supporte patternsd");
```
Comment (maximedenes) [inline plugins/ssr/ssrequality.ml]: `patternsd` -> `patterns` ?

Comment (maximedenes) [reply plugins/ssr/ssrequality.ml]: `supporte` -> `support`

File: plugins/ssr/ssripats.ml [hunk 33]
```diff
@@ -27,15 +27,31 @@ module IpatMachine : sig
   val main : ?eqtac:unit tactic -> first_case_is_dispatch:bool ->
         ssripats -> unit tactic
 
+
+  val tclSEED_SUBGOALS : EConstr.types array -> unit tactic -> unit tactic
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: Please comment.

File: plugins/ssr/ssripats.ml [hunk 34]
```diff
@@ -48,39 +64,91 @@ type istate = {
...
+  to_generalize = [];
+  name_seed = None;
 }
 
 include Ssrcommon.MakeState(struct
   type state = istate
   let init = empty_state
 end)
 
+let ns_print env sigma = function
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: What's `ns`? Can you expand the name?

Comment (maximedenes) [reply plugins/ssr/ssripats.ml]: Oh wait, are all these debug functions? If yes, put them in a `Debug` module or whatever. Or at least delimit the debugging part by comments.

File: plugins/ssr/ssripats.ml [hunk 35]
```diff
@@ -48,39 +64,91 @@ type istate = {
...
+let isNSEED_SET ty =
+  tclGET (fun s ->
+  tclSET { s with name_seed = Some ty })
+
+let isNSEED_CONSUME k =
+  tclGET (fun ({ name_seed = x } as s) ->
+  tclSET { s with name_seed = None } <*>
+  k x)
+
+let isTICK = function
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: I don't understand the name. Why tick?

File: plugins/ssr/ssripats.ml [hunk 36]
```diff
@@ -48,39 +64,91 @@ type istate = {
...
+let isGEN_PUSH dg =
+  tclGET (fun s ->
+  tclSET { s with to_generalize = dg :: s.to_generalize })
+
+let gen_astac id new_name =
+ let gen = ((None,Some(false,[])),Ssrmatching.cpattern_of_id id) in
+ V82.tactic (Ssrcommon.gentac gen)
+ <*> Ssrcommon.tclRENAME_HD_PROD new_name
+
+let isGEN_CONSUME =
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: Can you explain what this does in a comment?

File: plugins/ssr/ssripats.ml [hunk 37]
```diff
@@ -48,39 +64,91 @@ type istate = {
...
+  tclSET { s with to_clear = [] } <*>
   Tactics.clear ids)
 
 
-let isTICK _ = tclUNIT ()
+let isGEN_PUSH dg =
+  tclGET (fun s ->
+  tclSET { s with to_generalize = dg :: s.to_generalize })
+
+let gen_astac id new_name =
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: Can you explain what this does in a comment?

File: plugins/ssr/ssripats.ml [hunk 38]
```diff
@@ -137,17 +235,68 @@ let tacCHECK_HYPS_EXIST hyps = Goal.enter begin fun gl ->
   tclUNIT ()
 end
 
+let name_seeds_of_ind env sigma ty =
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: Can you explain what this does in a comment?

File: plugins/ssr/ssripats.ml [hunk 39]
```diff
@@ -137,17 +235,68 @@ let tacCHECK_HYPS_EXIST hyps = Goal.enter begin fun gl ->
...
+  in
+  let mind, indb = Inductive.lookup_mind_specif env (kn,i) in
+  let params = mind.Declarations.mind_nparams in
+  let drop_params x =
+    snd @@ EConstr.decompose_prod_n_assum sigma params (EConstr.of_constr x) in
+  Array.map drop_params indb.Declarations.mind_nf_lc
+
 (** [=> []] *****************************************************************)
+
+let tclTHENin t1 t2 =
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: Can you explain what this does in a comment?

File: plugins/ssr/ssripats.ml [hunk 40]
```diff
@@ -137,17 +235,68 @@ let tacCHECK_HYPS_EXIST hyps = Goal.enter begin fun gl ->
...
+  tclUNIT () >>= begin fun () -> let i = ref (-1) in
+  t1 <*> numgoals >>= fun n ->
+  Goal.enter begin fun g -> incr i; t2 !i n end
+end
+
+let tclSEED_SUBGOALS seeds tac =
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: Can you explain what this does in a comment?

File: plugins/ssr/ssripats.ml [hunk 41]
```diff
@@ -214,16 +363,26 @@ let tclLOG p t =
 let rec ipat_tac1 ipat : unit tactic =
   match ipat with
   | IPatView (clear_if_id,l) ->
-      Ssrview.tclIPAT_VIEWS ~views:l ~clear_if_id
+      Ssrview.tclIPAT_VIEWS
+        ~views:l ~clear_if_id
         ~conclusion:(fun ~to_clear:clr -> intro_clear clr)
 
+  | IPatDispatch (_,[[IPatId (Some (Hat|HatTilde), _) as p]]) ->
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: Can you write a comment explaining what this special case corresponds to?

File: plugins/ssr/ssripats.ml [hunk 42]
```diff
@@ -214,16 +363,26 @@ let tclLOG p t =
...
       tclDISPATCH (List.map ipat_tac ipatss)
 
-  | IPatId id -> Ssrcommon.tclINTRO_ID id
+  | IPatId (None, id) -> Ssrcommon.tclINTRO_ID id
+  | IPatId (Some Hat, id) -> tac_intro_seed ipat_tac `Prepend id
+  | IPatId (Some HatTilde, id) -> tac_intro_seed ipat_tac `Append id
+  | IPatId (Some Dependent, id) ->
+      intro_anon_deps <*> Ssrcommon.tclINTRO_ID id
 
+  | IPatCase [[IPatId (Some (Hat|HatTilde), _) as p]] ->
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: Same as above, it would be good to say a word about this special case.

File: plugins/ssr/ssripats.ml [hunk 43]
```diff
@@ -272,7 +427,7 @@ and tclIORPAT tac = function
 let split_at_first_case ipats =
   let rec loop acc = function
     | (IPatSimpl _ | IPatClear _) as x :: rest -> loop (x :: acc) rest
-    | IPatCase _ as x :: xs -> CList.rev acc, Some x, xs
+    | (IPatCase _ | IPatDispatch _) as x :: xs -> CList.rev acc, Some x, xs
```
Comment (maximedenes) [inline plugins/ssr/ssripats.ml]: Why did the `IPatDispatch` case change?

File: plugins/ssr/ssrparser.mlg [hunk 44]
```diff
@@ -802,6 +797,20 @@ let reject_ssrhid strm =
 
 let test_nohidden = Pcoq.Gram.Entry.of_parser "test_ssrhid" reject_ssrhid
 
+let rec reject_binder crossed_paren k s =
```
Comment (maximedenes) [inline plugins/ssr/ssrparser.mlg]: Can you write a comment saying what this does?

File: plugins/ssr/ssrview.ml [hunk 45]
```diff
@@ -86,34 +87,41 @@ include Ssrcommon.MakeState(struct
   let init = None
 end)
 
-let vsINIT (view, to_clear) =
-  tclSET (Some { subject_name = None; view; to_clear })
+let vsINIT ~view ~subject_name ~to_clear =
+  tclSET (Some { subject_name; view; to_clear })
+
+let vsBOOTSTRAP = Goal.enter_one ~__LOC__ begin fun gl ->
```
Comment (maximedenes) [inline plugins/ssr/ssrview.ml]: Can you write a comment explaining what this does?

File: plugins/ssr/ssrview.ml [hunk 46]
```diff
@@ -86,34 +87,41 @@ include Ssrcommon.MakeState(struct
...
+let rec vsCONSUME k =
+ tclINDEPENDENT (tclGET (function
   | Some { subject_name; view; to_clear } ->
         tclSET None <*>
-        k ~name:subject_name view ~to_clear
-  | None -> anomaly "vsCONSUME: empty storage")
+        k ~names:subject_name view ~to_clear
+  | None -> vsBOOTSTRAP <*> vsCONSUME k))
+
+let vsCONSUME_IF_PRESNT k =
```
Comment (maximedenes) [inline plugins/ssr/ssrview.ml]: Can you write a comment explaining what this does?

File: plugins/ssr/ssrview.ml [hunk 47]
```diff
@@ -305,51 +319,78 @@ end
...
-           Ssrprinters.ppdebug (lazy Pp.(str"..a tactic"));
-           ending s0 <*> Tacinterp.eval_tactic tac <*>
-           Ssrcommon.tacSIGMA >>= apply_all_views ~clear_if_id ending vs
+      is_tac_in_term ~extra_scope:"ssripat" v >>= function
       | `Term v ->
            Ssrprinters.ppdebug (lazy Pp.(str"..a term"));
            pile_up_view ~clear_if_id v <*>
-           apply_all_views ~clear_if_id ending vs s0
+           apply_all_views_aux ~clear_if_id vs finalization conclusion s0
+      | `Tac tac ->
```
Comment (maximedenes) [inline plugins/ssr/ssrview.ml]: Can you write a comment explaining what we do in the `Tac` case?

File: plugins/ssr/ssrview.ml [hunk 48]
```diff
@@ -305,51 +319,78 @@ end
...
+  let finalization s0 k =
+    State.vsCONSUME_IF_PRESNT (fun ~names t ~to_clear ->
+      match t with
+      | None -> k [] None
+      | Some t ->
+          finalize_view s0 t >>= fun p -> k (names @ to_clear) (Some p)) in
+  Ssrcommon.tacSIGMA >>=
+    apply_all_views_aux ~clear_if_id vs finalization conclusion
+
+let apply_all_views_to subject ~simple_types vs ~conclusion = begin
```
Comment (maximedenes) [inline plugins/ssr/ssrview.ml]: Can you write a comment explaining what this does?

**Review by maximedenes — COMMENTED** [review]
Looks good to me! The code lacks comment to make it maintainable by other developers like me. I wrote many requests for comments, in parts that I found not obvious. By comment I really mean spec, saying roughly what a function is expected to do, not necessarily a very elaborate text.

File: plugins/ssr/ssrcommon.ml (hunk 27 above)
Comment (gares) [reply plugins/ssr/ssrcommon.ml]: I needed to relax this for block ipats when the field lacks a name, iirc. It generates, for a seed x, `_x?_` that is ok but not valid.

File: plugins/ssr/ssripats.ml (hunk 35 above)
Comment (gares) [reply plugins/ssr/ssripats.ml]: Tick is called between ipats and makes the name seed ephemeral: if seeding is followed by a block intro is fine, else we discard the seed.

File: plugins/ssr/ssrparser.mlg (hunk 44 above)
Comment (gares) [reply plugins/ssr/ssrparser.mlg]: Should detect (id: or (Id:=

Comment (maximedenes) [reply plugins/ssr/ssrparser.mlg]: Again, you don't need to put the comments here, they would be more useful in the code IMHO.

File: plugins/ssr/ssrview.ml (hunk 47 above)
Comment (gares) [reply plugins/ssr/ssrview.ml]: End the application of Term views accumulated so far, apply tac, continue. I'd like to factor more the common code (see the empty list case) but I was not able

File: plugins/ssr/ssrview.ml (hunk 48 above)
Comment (gares) [reply plugins/ssr/ssrview.ml]: This applies views to an explicit subject (not top) as in case/v: subj.

**Review by Zimmi48 — COMMENTED** [review]
I think you could still improve the consistency of the ordering between the grammar rules, the first paragraph, and the later descriptions. But this is only a suggestion.

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 49]
```diff
@@ -1640,18 +1684,19 @@ The view is applied to the top assumption.
...
   and assumptions corresponding to each constructor, this is not enforced by
   |SSR|.
-``/`` :token:`term`
-  Interprets the top of the stack with the view :token:`term`.
-  It is equivalent to ``move/term``. The optional flag ``{}`` can
-  be used to signal that the :token:`term`, when it is a context entry,
-  has to be cleared.
+``(`` :token:`i_item` * ``| … |`` :token:`i_item` * ``)``
+  *branching* :token:`i_pattern`. With no exception
+  it executes the sequence :token:`i_item`:math:`_i` on the i-th subgoal.
```
[the remark this answers is not in the document]
Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: Which behavior exactly? (one of the reasons of adding `(..|..|..)` is that both make sense to me).

[the remark this answers is not in the document]
Comment (Zimmi48) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: The one that is supported by parentheses.

**Comment by maximedenes** [comment]
> When do we use it? Is it dead code now that clears were simplified?

It's not dead, but I removed the call (and the function itself).

**Comment by maximedenes** [comment]
Ok, I helped addressing comments, cleaning up the code and rebased.

**Comment by gares** [comment]
The failure in mathcomp is due to the simplefied handling of `elim E: x`. The proof in seq uses `x` after the elimination (it was not cleared since `E:` and no use of `x` in the following ipat... last check was removed).

**Comment by maximedenes** [comment]
@CohenCyril can you be an assignee for this PR, since I have now co-authored some code? Thanks!

File: plugins/ssr/ssripats.ml (hunk 35 above)
Comment (gares) [reply plugins/ssr/ssripats.ml]: comment added

File: plugins/ssr/ssripats.ml (hunk 37 above)
Comment (gares) [reply plugins/ssr/ssripats.ml]: done

File: plugins/ssr/ssripats.ml (hunk 38 above)
Comment (gares) [reply plugins/ssr/ssripats.ml]: done

File: plugins/ssr/ssripats.ml (hunk 40 above)
Comment (gares) [reply plugins/ssr/ssripats.ml]: done

File: plugins/ssr/ssripats.ml (hunk 36 above)
Comment (gares) [reply plugins/ssr/ssripats.ml]: done

File: doc/sphinx/proof-engine/ssreflect-proof-language.rst [hunk 50]
```diff
@@ -1640,18 +1684,19 @@ The view is applied to the top assumption.
...
+  Raises an error if the number of goals and the number of :token:`i_item`
```
[the remark this answers is not in the document]
Comment (gares) [reply doc/sphinx/proof-engine/ssreflect-proof-language.rst]: I tried to see if the standard `;[` or `;[>` tacticals were documented using `exn:` and in that case use the same message (given that it is not ssr raising the error but the tclWHATEVER I call. They are not documented using exn so I'm not following your suggestion.

File: plugins/ssr/ssrprinters.ml [hunk 51]
```diff
@@ -97,24 +97,29 @@ let pr_view2 = pr_list mt (fun c -> str "/" ++ pr_ast_closure_term c)
...
+  | IPatId (None,id) -> Id.print id
+  | IPatId (Some Dependent,id) -> str">" ++ Id.print id
   | IPatSimpl sim -> pr_simpl sim
   | IPatClear clr -> pr_clear mt clr
-  | IPatCase iorpat -> hov 1 (str "[" ++ pr_iorpat iorpat ++ str "]")
-  | IPatDispatch(_,iorpat) -> hov 1 (str "/[" ++ pr_iorpat iorpat ++ str "]")
+  | IPatCase (Regular iorpat) -> hov 1 (str "[" ++ pr_iorpat iorpat ++ str "]")
+  | IPatCase (Block (m,id)) -> hov 1 (str"[" ++ pr_block (m,id) ++ str"]")
+  | IPatDispatch(_,Regular iorpat) -> hov 1 (str "/[" ++ pr_iorpat iorpat ++ str "]")
+  | IPatDispatch (_,Block (m,id)) -> hov 1 (str"/[" ++ pr_block (m,id) ++ str"]")
```
[the remark this answers is not in the document]
Comment (gares) [reply plugins/ssr/ssrprinters.ml]: done

File: plugins/ssr/ssripats.ml (hunk 43 above)
Comment (gares) [reply plugins/ssr/ssripats.ml]: done

**Comment by gares** [comment]
@CohenCyril I think I've addressed all the issues reported here. Still you had a comment about the change to `elim E : x => [|x IHx]` that I don't recall.

**Comment by gares** [comment]
@CohenCyril I think I now recall everything. I can't implement the fix you asked, but also I gave you a bad explanation. I tried to update the doc to make it clear: it is a debugging feature, hence it *must not* change the induction hyp, hence the equation has to be generated *after* the elimination. I hope you are satisfied with it. One could still "simulate" the thing, but the code is not trivial at all given that the tactic creating the equation does not know, today, the eliminated term.
https://github.com/coq/coq/pull/6705/commits/2ce9db1add274dd74ed62e0a1eb2881e0ea7c275

**Comment by gares** [comment]
I think the PR is now, finally, ready to be merged. I think I made the mistake of not citing @charguer early, so maybe we should give him a few days to give a look at the doc/tests. A couple of feature here were a request of him, after all.

**Comment by charguer** [comment]
First of all, thanks for the work, this goes along the line of what we had discussed and is going to be a great improvement for Coq.

Here are some bug reports / feature wishes, marked as "TODO".

```
Require Import ssreflect.

Require Import List.

Lemma test_elim_pattern_1 : forall A (l:list A), l ++ nil = l.
Proof.
intros A.
elim/list_ind => [^~ _1 ].
(* TODO: I would like to write just "1" instead of "_1", but the syntax is rejected:
   elim/list_ind => [^~1 ]. *)
Abort.

Lemma test_elim_pattern_2 : forall A (l:list A), l ++ nil = l.
Proof.
intros. elim: l => [^~ _1 ].
Abort.

Lemma test_elim_pattern_3 : forall A (l:list A), l ++ nil = l.
Proof.
intros. elim: l => ( | x l' IH ).
Abort.


Generalizable Variables A.

Class Inhab (A:Type) : Type :=
  { arbitrary : A }.

Lemma test_intro_typeclass_1 : forall A `{Inhab A} (l1 l2:list A), l2 = nil -> l1 ++ l2 = l1.
Proof.
move =>> H. (* introduces [H:Inhab A] *)
Abort.

Lemma test_intro_typeclass_2 : forall A `{Inhab A} (x:A), x = arbitrary -> x = arbitrary.
Proof.
move =>> H. (* introduces [H:x=arbitrary] *)
Abort.

Lemma test_intro_temporary_1 : forall A (l1 l2:list A), l2 = nil -> l1 ++ l2 = l1.
Proof.
move => A + l2.
Abort.

Lemma test_intro_temporary_2 : forall A `{Inhab A} (l1 l2:list A), l2 = nil -> l1 ++ l2 = l1.
Proof.
move => > R > E. move: R. 
(* TODO: I want to do: [move => > + > E]. *)
Abort.

Lemma test_intro_fast : forall A (l1 l2:list A), l2 = nil -> l1 ++ l2 = l1.
Proof.
(* TODO: I want to do  [move =>>.] to introduce A, l1 and l2. *)
Abort.



Lemma test_dispatch : (forall x:nat, x= x )/\ (forall y:nat, y = y).
Proof.
intros. split => ( a | b ). 
Abort.

Lemma test_tactics_as_view_1 : forall A (l1:list A), nil ++ l1 = l1.
Proof.
move => /ltac:(simpl).
Abort.

Lemma test_tactics_as_view_2 : forall A, (forall (l1:list A), nil ++ l1 = l1) /\ (nil ++ nil = @nil A).
Proof.
move => A.
(* TODO: I want to do  [split =>.] as a temporary step in setting up my script,
    but this syntax does not seem to be supported. Can't we have an empty ipat? 
   Note that I can do [split => ( | )]*)
split => (| /ltac:(simpl)). 
Abort.

Notation "%%" := (ltac:(simpl)) : ssripat_scope.

Lemma test_tactics_as_view_3 : forall A, (forall (l1:list A), nil ++ l1 = l1) /\ (nil ++ nil = @nil A).
Proof.
move => /ltac:(split) ( | /%% ). 
Abort.

```


Question: What if I am used the standard "induction" tactic, and I want to do
induction as [^ X_ ].
Can that be made to work? Can we have an ssr variant syntax that supports 
induction with the new intropattern but the same behavior as traditional
induction in terms of generalization? 

Question: what is the command to name variables, e.g., "x" instead of "_x_",
   that is, to disable ssr's mechanism for tagging anonymous variables?


Problem?: the notation e.g. /2/ /3=  use numbers. 
   - I don't think numbers are intuitive for users to work with. 
   - I think use of numbers will trigger many more conflicts from libraries that
     export conflicting definitions than when using names.
   - There is potential confusion between /2= foo and /2: foo, which we discussed
     might be desirable as shorthand for /ltac:(2: foo). *)

**Comment by charguer** [comment]
One more comment: the syntax "/ltac:(tac)" is a bit heavy, imo. I understand that it is meant to avoid conflict with the syntax "/term" which is used for views. I have seen that it is possible to set up a notation so that "/tac" would work directly. But overall, I think that users who want to use the new intropatterns but are not users of views, the syntactic overhead is probably too much. 

One possibility is to use a special token, either in combination with "/" or inplace of if?
That is, either "/$", such as `/$simpl` or `/$(simpl bar)`.
Or just "$", such as `$simpl` or `$(simpl bar)`. looks good to me.
(I'm suggesting "$" because it reminds of "eval" in bash, but other "free" characters could be used.)

**Comment by gares** [comment]
Thanks for testing!

I see the various TODO, and I even love some of the requests, but I'd postpone them to another PR since they seem minor/orthogonal improvements.

This seems to be the bug, am I right?

    Lemma test_intro_typeclass_1 : forall A `{Inhab A} (l1 l2:list A), l2 = nil -> l1 ++ l2 = l1. 
    Lemma test_intro_typeclass_2 : forall A `{Inhab A} (x:A), x = arbitrary -> x = arbitrary.

The first "assumption" (eg arrow) is `Inhab A` in the first case, and `x = arbitrary` in the second case.
If I get it right you would like the `Inhab A` one not to count in the first case, am I right?
Did we found a "rule" for that?

I try to reply to your other questions, but they may be a bit off topic for this PR.

> Question: What if I am used the standard "induction" tactic, and I want to do
> induction as [^ X_ ].

One would need to patch it by calling the `tclSEED_SUBGOALS` tactic: https://github.com/coq/coq/pull/6705/files#diff-614ee082e52d7b77792344fb1c051554R31 . This would put the right piece of info in place, but one would also add support for `[^ ... ]` in `as` and I've no idea how to do that.
Note that `=>` can be put after `induction`, but I don't know if there is a way to tell the tactic not to
introduce any new hyps.

> Question: what is the command to name variables, e.g., `x` instead of `_x_`,
> that is, to disable ssr's mechanism for tagging anonymous variables?

I don't think there is such a switch. It can be surely added, but I'm not sure I'd recommend it.

> * I don't think numbers are intuitive for users to work with.

If you read it as "search depth" then I find `/7/` to be more powerful than `/3/` quite intuitive.

> * I think use of numbers will trigger many more conflicts from libraries 
> * There is potential confusion between /2= foo and /2: foo

I understand these arguments, but they also apply to most of the other mechanisms we 
have in Coq, so I'm not so sure I see how to fix them here. The best we have is name qualifiers, so I'd recommend `/ltac:my.tactic` as a conflict free interface. I'd use locally, inside a development, a notation (another non compositional thing).
I see `/2=` as one of these "development local" notations. I know it is not a strong argument... but the syntax is quite packed already.

**Comment by charguer** [comment]
```
Lemma test_intro_typeclass_1 : forall A `{Inhab A} (l1 l2:list A), l2 = nil -> l1 ++ l2 = l1. 
```
In the current setting, the behavior that you implemented is correct: `Inhab A` will be the first non-dependent hypothesis, so there is no "bug" here with respect to the advertised specification.

Now, the question is whether we want a refined specification, with the following rule "if a premise is not dependently used, but its type is that of a typeclass, then `>` should introduce it automatically (as if it was dependently used)".  

In my experience, for all the typeclasses that I have used, this latter rule, with automatic introduction of typeclass arguments even when they are not used, is the desired semantics. But it could be useful to double check with other users of typeclasses what they think about it.

**Comment by gares** [comment]
CC @CohenCyril what do you think about the rule @charguer suggests?

**Comment by charguer** [comment]
Regarding the other TODOs, here is by order of importance:
- Support for `move =>>.`  I find it absolutely critical to allow empty list after ">".
- Support for  `move => > + > E`   I would have filled a bug to report that there is a restriction on the ipats that can follow a "+".
-  Support for `elim/list_ind => [^~1 ]`    I see no reason why we couldn't give a pattern that begins with a digit. 
- Support for `split =>.`  Ideally, the empty list of ipats should be accepted, it's useful while editing scripts.

**Comment by gares** [comment]
I'm OK with all these features, but they can be added later, so I'd devote other PRs to them.
In particular the second one requires quite some changes in the ML code, since the `>` is internally a modifier for the ident that follows it. I'm happy making it a modifier for anything that follows it, but it is not a 5 minutes change.

**Comment by charguer** [comment]
> , since the > is internally a modifier for the ident that follows it. 

Perhaps this is the root of the problem. Couldn't `>` be treated as a ipat of its own, rather than a modifier? Its semantics does not depend on what comes next, as far as i understand. 

(Btw, is it the same problem for `+` ?)

**Comment by maximedenes** [comment]
> Couldn't `>` be treated as a ipat of its own, rather than a modifier?

I'm pretty sure this was discussed a lot during the Quill meetings, we should check in the notes what we had said back then.

**Comment by charguer** [comment]
> all these features, but they can be added later

If I have support for "move =>>", I could migrate all my proof scripts from using TLC's "introv" to using "move=>>", providing extensive testing and feedback. Without this change, I will just have to wait.

**Comment by charguer** [comment]
The notes of Quill don't seem to mention `move =>>.` all by itself, but I recall that we discussed the semantics of `introv.` without arguments, to determine whether it should call `hnf` or not when there is no visible head symbol.

Btw, I don't think that we made a final decision on whether `>` should call  `\hnf` when there is no visible `forall` at the head of the goal. In some cases, for the user it seems convenient to do so. However, this makes tactic implementations more brittle, and after all `\hnf` can be used as an intropattern, so the overhead of having it explicitly is fairly limited.

**Comment by herbelin** [comment]
I'd not like to "casser la baraque" seeing all the good energy and enthousiasm put in this PR, but eventually, I still think that it would be worth to think at a model common for both ssreflect and vanilla introduction patterns. It seems absurd to me to encourage having two syntaxes and two semantics rather than uniting the best of the two implementations. So, whoever the "Quill" name means (is it correct to say that it means @gares + @maximedenes + @charguer + @cyrilcohen?), I'd be very glad to see it asserting the intention of eventually ambitioning a larger scale than the only scale of ssreflect introduction patterns.

**Comment by gares** [comment]
> I'm pretty sure this was discussed a lot

Yes, and the baby step was "we implement it as a modifier for an ident" knowing it could become a thing of his own. For example there are details that we did not sort out when you combine it with `+`. Eg `>+` could could, for example, introduce up to the first non dep hyp, but then also generalize back all that, rather than just the last one.

Again the choice was to code the obvious case (and also the one we had prior experience with).

**Comment by gares** [comment]
I think we should move the discussion of extensions to another place, as well the discussions about grater plans.

We should leave here only bugs or requests for changes in the semantics of what is currently implemented.

**Comment by gares** [comment]
FTR the failure on quickchick is spurious

**Comment by jhjourdan** [comment]
> In my experience, for all the typeclasses that I have used, this latter rule, with automatic introduction of typeclass arguments even when they are not used, is the desired semantics. But it could be useful to double check with other users of typeclasses what they think about it.

I agree. It is very rarely needed to give an explicit name to a typeclass hypothesis, so it should be introduced automatically with its automatically generated name.

**Comment by CohenCyril** [comment]
Hi everyone,
- @gares I agree with every single remark of @charguer, including the order of importance.
- I also agree with the fact that strict improvments can be part of a second PR.
- For the behaviour of `>` I agree with @charguer and @jhjourdan: for uniformity, one may assume that tc will always be used (if they are not it is either a bug or an artifact of resolution), hence I agree with `>` introducing every arguments which is depended on plus class variables.
- combination of `>` and `+` may be dealt with by documenting one should put spaces between such symbols and fail if they are glued together, to allow the possibility of adding new tokens later.
- The scripts showed by @charguer should be integrated to the test base with an assertion to fail if the end result is not the expected one (I don't know how to make such an assertion, except by having a `suff: target goal by apply.`)

**Comment by CohenCyril** [comment]
Hi @herbelin: for the record I do not know exactly who the Quill people were, but I was not part of it, and I do not think that matters here. Also, targeting a convergence of the tactic languages is off-topic here and should not prevent making long-wanted improvements to `ssreflect`. If you want to contribute in the direction of convergence, I invite you to point me to a place where an exhaustive comparison of the two mechanisms is made, or start writing one such a document if it does not exist and call for contributions..., then open a debate somewhere (but not here) on how we should merge them by suggesting exhaustive constructive solutions for every single diverging behavior, or calling for help if you do not have one. After that we can decide what is feasible and what is not. Meanwhile, I believe remarks such as the one you made has nothing to do in this thread.

**Comment by herbelin** [comment]
@CohenCyril: thanks for your answer. I don't believe that the discussion on comparing vanilla introduction patterns and ssreflect introduction patterns is off-topic, well on the contrary (see e.g. the first question of @zimmi48 above).

> If you want to contribute in the direction of convergence, I invite you to point me to a place where an exhaustive comparison of the two mechanisms is made, or start writing one such a document if it does not exist and call for contributions...

I don't have an exhaustive document but I studied the differences from times to times. However I have a document about a long-term hopefully-unifying proposal if ever a collective wish in this direction can be obtained (I'm sending it to you privately by mail).

> [it] should not prevent long-wanted improvements to ssreflect

@CohenCyril: We are several with good ideas about how to extend the current language(s) of primitive tactics with new interesting features around nice guidelines. How do you position yourself in this context? Are you only interested in developing ssreflect or are you also interested by envisioning a richer united renovated model of tactics targetting all kinds of users?

For instance, in the context of a united language, we certainly want "key bindings" (in the style of introduction patterns) to do quickly what we do repeatively. But do we want only key bindings? (This is a hint at the unifying proposal mentioned above: it aims at developing a language of primitive tactics which superimposes three flavours: an "explicit" mode, expected to target beginners or casual users, a "key binding" mode - à la ssreflect - for proving fast, a "natural language" mode, for proof rendering.)

Let's take the case of `>H`. As @zimmi48 pointed out, there is already `*`, `**` in vanilla introduction patterns and `*` in ssreflect introduction patterns (in passing, thanks to @charguer whose `introv` gave the motivation for vanilla `*`). Is it really worth to add a new syntax  for something which, as @zimmi48 pointed out, could already be written `* H`, using the vanilla semantics of `*`?

In particular, are we sure that introducing `>H` is better than e.g. deprecating `*` in ssreflect in favor of `**` and later reuse `*` in ssreflect with the vanilla semantics?

Or, if we are sure that we want `>`, which after all is suggestive, why not to then replace `*` by `>>` (by consistency of notations) and add `>` and `>>` as synonymous of `*` and `**` also in vanilla introduction patterns (by consistency between vanilla and ssreflect, for the sake of clarity)?

Do you think that such question is off-topic? Do you consider that I'm wrong in trying to anticipate a unifying model rather than complexifying a symbolic language of patterns which is already pretty complex to remember?

> tactics as views: => /ltac:mytac

I have a private branch with such introduction pattern for vanilla Coq. I mentioned it once to @ppedrot who discouraged me to develop it further. What should I do with my branch? Does it make sense to add such introduction pattern to ssreflect without thinking at a similar construction in vanilla introduction patterns (again, to be able to propose to users a unified model)?

> for the record I do not know exactly who the Quill people were, but I was not part of it, and I do not think that matters here. 

The question was asked twice above. @gares dismissed it but @charguer reused the word, so, I guess it matters de facto.

In any case, I'd be very glad to have more general discussions on the topic of tactics, in whatever context.

**Comment by gares** [comment]
OK, I'll add the file to the test suite and see what I can do for `>` plus type classes.

**Comment by gares** [comment]
We are all set:
- test case added
- numbers can be used as suffix in `[^~`
- TC instances are skipped with `>H`

**Comment by charguer** [comment]
I'm sorry to insist, but I really couldn't live without `move >>.` (for the sake of replacing my `introv`).

In the notes that I wrote, I think that I always presented `>` as an ipat of its own. Perhaps you argued that it would be more easily implemented as a modifier for what comes next, but it didn't strike me at that time that it would mean that `move=>>` wouldn't work, else I would have complained for sure :) 

So if for implementation reasons you currently would prefer to view `>` as a modifier for "what comes next", rather than an "ipat" on its own, would it be possible to interpret the final `>` before the dot as a modifier for the "final post-processing" associated with the dot (if there is no such processing, could we pretend that there is one)?

If this is not possible, as last resort, could you implement `=>>` as a token of its own? (Knowing that we would have to advertize for the fact that `move => H >.` is not yet supported.)

Thanks,
Arthur

**Comment by maximedenes** [comment]
@charguer I think there's a misunderstanding. We indeed want to implement `move=>>`, but we think it is better to do so after merging this PR rather than also having to maintain the branch. The only difference seems to me that if we have to maintain the branch *and* develop the new feature, you'll have to wait more.

**Comment by charguer** [comment]
Ah ok, then please go ahead.

**Comment by charguer** [comment]
Typeclass support seems to work.

```
Require Import ssreflect.

Require Import List.

Generalizable Variables A B.

Class Inhab (A:Type) : Type :=
  { arbitrary : A }.

Lemma test_intro_typeclass_1 : forall A `{Inhab A} (x:A), x = arbitrary -> x = arbitrary.
Proof.
move =>> H. (* introduces [H:x=arbitrary] because first non dependent hypothesis *)
Abort.

Lemma test_intro_typeclass_2 : forall A `{Inhab A} (l1 l2:list A), l2 = nil -> l1 ++ l2 = l1.
Proof.
move =>> H. (* introduces [Inhab A] automatically because it is a typeclass instance *)
Abort.

Lemma test_intro_typeclass_3 : forall `{Inhab A, Inhab B} (x:A) (y:B), True -> x = x.
Proof. (* Above types [A] and [B] are implicitly quantified *)
move =>> y H. (* introduces the two typeclass instances automatically *)
Abort.

Class Foo `{Inhab A} : Type :=
  { foo : A }.

Lemma test_intro_typeclass_4 : forall `{Foo A}, True -> True.
Proof. (* Above, [A] and [{Inhab A}] are implicitly quantified *)
move =>> H. (* introduces [A] and [Inhab A] because they are dependently used,
               and introduce [Foo A] automatically because it is an instance. *)
Abort.
```

**Comment by charguer** [comment]
I've just tested "block intro: allow numerical suffix" and "TC support".
Both seem to work. 
My tests for TC support:

```
Require Import ssreflect.

Require Import List.

Generalizable Variables A B.

Class Inhab (A:Type) : Type :=
  { arbitrary : A }.

Lemma test_intro_typeclass_1 : forall A `{Inhab A} (x:A), x = arbitrary -> x = arbitrary.
Proof.
move =>> H. (* introduces [H:x=arbitrary] because first non dependent hypothesis *)
Abort.

Lemma test_intro_typeclass_2 : forall A `{Inhab A} (l1 l2:list A), l2 = nil -> l1 ++ l2 = l1.
Proof.
move =>> H. (* introduces [Inhab A] automatically because it is a typeclass instance *)
Abort.

Lemma test_intro_typeclass_3 : forall `{Inhab A, Inhab B} (x:A) (y:B), True -> x = x.
Proof. (* Above types [A] and [B] are implicitly quantified *)
move =>> y H. (* introduces the two typeclass instances automatically *)
Abort.

Class Foo `{Inhab A} : Type :=
  { foo : A }.

Lemma test_intro_typeclass_4 : forall `{Foo A}, True -> True.
Proof. (* Above, [A] and [{Inhab A}] are implicitly quantified *)
move =>> H. (* introduces [A] and [Inhab A] because they are dependently used,
               and introduce [Foo A] automatically because it is an instance. *)
Abort.
```

**Comment by Zimmi48** [comment]
Probably worth to add these to the test-suite?

**Comment by Zimmi48** [comment]
Probably worth to add these to the test-suite?

**Comment by Zimmi48** [comment]
Sorry for the accidental closing :cry:

**Comment by maximedenes** [comment]
Ah ah, and now coqbot asks for a rebase, and won't run CI.

I'm repeating it, this criterion makes our life very bad.

**Comment by Zimmi48** [comment]
>I'm repeating it, this criterion makes our life very bad.

I will fix it but it is not trivial and I have been trying to prioritize writing my PhD thesis. Pay me a fourth year of PhD and I can take some time off to improve my maintenance responsiveness :wink:

**Comment by gares** [comment]
I've added your file to the test suite (I use `match goal with` to assert the result).
I'd be happy to have PR (or even commits pushed here, I can give your write access) adding tests.

**Comment by gares** [comment]
I can rebase tomorrow morning, no big deal.

**Comment by gares** [comment]
ok, I did it now but I don't have time to add extra tests.

**Comment by gares** [comment]
> Probably worth to add these to the test-suite?

done

**Comment by gares** [comment]
CI is green (failures are unrelated)

**Comment by gares** [comment]
The PR was split in two: #9195 contains the dispatch ipat and the custom simpl/done feature.

The rationale is that this PR was demoed in at the math-comp working group and there was clearly a different feeling about what is left in this PR (that everybody liked) and what is postponed in #9195 (that found some friction, more comments on the other PR).

**Comment by gares** [comment]
@CohenCyril I've just rebased in order to fix the conflicts with master and I've also fixed the glitches we found in the doc yesterday.

**Comment by CohenCyril** [comment]
> @CohenCyril I've just rebased in order to fix the conflicts with master and I've also fixed the glitches we found in the doc yesterday.

I'm going to test it one more time, and then I will merge.

File: pretyping/arguments_renaming.ml [hunk 52]
```diff
@@ -69,19 +69,25 @@ let rename_arguments local r names =
 
 let arguments_names r = GlobRef.Map.find r !name_table
 
-let rec rename_prod c = function 
+let get_rename old_name rename_item =
```
Comment (maximedenes) [inline pretyping/arguments_renaming.ml]: I think you should introduce `Name.default`, if it does not already exists.

File: pretyping/arguments_renaming.ml [hunk 53]
```diff
@@ -69,19 +69,25 @@ let rename_arguments local r names =
...
+  match rename_item with
+  | Name _ as x -> x
+  | Anonymous -> old_name
+
+let rec rename_type_aux c = function
```
Comment (maximedenes) [inline pretyping/arguments_renaming.ml]: This is probably missing a comment explaining the intended behavior. Given the name, shouldn't it be local to `rename_type`?

Comment (gares) [reply pretyping/arguments_renaming.ml]: done

File: pretyping/arguments_renaming.ml (hunk 52 above)
Comment (gares) [reply pretyping/arguments_renaming.ml]: The type does not match the one of, say, `Option.default` since it is
```val default : default:Name.t -> Name.t -> Name.t```
I could not find a name for such a combinator.. help is welcome

**Comment by gares** [comment]
quickchick failure is spurious

File: pretyping/arguments_renaming.ml (hunk 52 above)
Comment (gares) [reply pretyping/arguments_renaming.ml]: I've renamed the function `name_override old_name override` after a discussion with Cyril.
Wrt moving it to `kernel/names.ml` I did not do it because It is not a standard combinator AFAICT. (`default` is and hence its place would have been there, but given it is not `default`...).

**Comment by gares** [comment]
CI has passed but I notice that I've included a spurious commit (now part of master). I'm rebasing to clean the mess up.

**Comment by gares** [comment]
@CohenCyril drum roll...

**Review by CohenCyril — APPROVED** [review]
Looks good to me. I will merge.
